US07465731B2
A solution of ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride (500 mg), 4-chlorobenzoyl chloride (249 mg) and Et3N (0.624 ml) in DMF (20 ml) was stirred at ambient temperature for 10 hours. The reaction mixture was poured into a mixture of AcOEt and H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was washed with IPE and n-hexane to give ethyl (2E)-3-(5-chloro-6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (570 mg).

reactant | ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride | 500 mg | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCC1)/C=C/C(=O)OCC
reactant | 4-chlorobenzoyl chloride | 249 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | Et3N | 0.624 ml | CCN(CC)CC | C6H15N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | ethyl (2E)-3-(5-chloro-6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 570 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)C(C1=CC=C(C=C1)Cl)=O)/C=C/C(=O)OCC | C21H21Cl2N3O3
